data/mechanism_extracts/ChemSci/10.1039_D2SC07045F_sup_1.json
{"doi": "10.1039_D2SC07045F_sup_1", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical sulfonylation/cyclization of alkenes with sodium sulfinates proceeding via sulfonyl radical addition under undivided-cell conditions.", "mechanism_family": ["radical_anodic", "direct_SET"], "electrochemical_role": "Anodic oxidation of sulfinate (ArSO2Na) to a sulfonyl radical (ArSO2•), which adds to the alkene; cathode reduces protons to H2.", "key_intermediates": [{"name": "tosyl radical (ArSO2•) from anodic oxidation of sodium p-toluenesulfinate", "smiles": "O=S(=O)(c1ccc(C)cc1)[O]", "role": "reactive"}, {"name": "benzylic/cyclopropylcarbinyl C-radical from sulfonyl radical addition to 1-cyclopropyl-1-phenylethylene", "smiles": null, "role": "transient"}, {"name": "vinyl sulfone product 9 (sulfonyl-trapped alkene, no ring-opening observed)", "smiles": "O=S(=O)(c1ccc(C)cc1)/C=C(\\c1ccccc1)C1CC1", "role": "reactive"}], "electron_flow": "Sulfinate is oxidized at the anode by SET to generate a sulfonyl radical that adds to the alkene; the resulting carbon radical is further oxidized/deprotonated to the vinyl sulfone, while protons are reduced at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "1-cyclopropyl-1-phenylethylene (radical clock)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Reaction with sodium p-toluenesulfinate under electrolysis (GF anode, Pt cathode, Et4NClO4, HFIP/H2O 20:1, 4 mA, 8 h) gave the vinyl sulfone 9 without cyclopropane ring-opening rearrangement, indicating fast trapping of the sulfonyl-adduct radical or a non-radical pathway at that stage."}], "evidence_types_used": ["radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Page also contains characterization data for Suzuki cross-coupling product 6 (Pd(OAc)2/PPh3/K2CO3, i-PrOH, 90 °C) of bromo-thiazonine 4l with (3,4,5-trimethoxyphenyl)boronic acid — this is product diversification, not mechanistic. Only the radical trapping/clock experiment at the bottom is mechanism-relevant."}
